US04842639
2-Pentyl-7-(propylthio)-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide
To a solution of 5.0 g of potassium-t-butoxide in 40 ml of dry dimethylformamide was added 4.0 ml of propyl mercaptan at -5° to 0° C. under an inert atmosphere followed by 11.0 g of 2-pentyl-7-chloro-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide. The mixture was stirred at room temperature for 16 hours, poured into water and extracted with n-butyl chloride. The extract was washed with water and brine, dried over MgSO4 and concentrated to give 10.3 g of the title compound as a yellow oil.

reactant | potassium-t-butoxide | 5.0 g | CC(C)([O-])C.[K+]
reactant | propyl mercaptan | 4.0 ml | C(CC)S | C3H8S
reactant | 2-pentyl-7-chloro-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide | 11.0 g | C(CCCC)N1S(C2=C(C1)C=CC=C2Cl)(=O)=O | C12H16ClNO2S
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-Pentyl-7-(propylthio)-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide | 10.3 g | C(CCCC)N1S(C2=C(C1)C=CC=C2SCCC)(=O)=O | C15H23NO2S2
